US05201938
Preparation of N-(1-Methylpyrazol-3-yl)-7-chloro-5-methoxy-1,2,4-triazolo[1,5-c]pyrimidine-2-sulfonamide
Sodium iodide (3.6 g, 24 mmol) and trimethylsilyl chloride 92.6 g, 24 mmol) were added to a solution of 3-amino-1-methylpyrazole (2.3 g, 24 mmol) and triethylamine (2.5 g, 25 mmol) in 20 mL of acetonitrile at ambient temperature with stirring and under dry nitrogen. The mixture was allowed to react until the 3-amino-1-methylpyrazole was essentially all consumed as determined by gas-liquid chromatography. The solvent was then removed by evaporation under reduced pressure and the residue was taken up in diethyl ether. The resulting mixture was filtered to remove solids and the ether was removed by evaporation under reduced pressure. The residue was dissolved in 10 mL of acetonitrile and the resulting solution was combined with 7-chloro-5-methoxy-1,2,4-triazolo[1,5-c]-pyrimidine-2-sulfonyl chloride (2.0 g, 7.0 mmol) and to this was added with stirring at ambient temperature about 0.2 mL of dimethyl sulfoxide catalyst. The resulting mixture was allowed to react for 24 hours and was then concentrated under reduced pressure and the residue was diluted with first water and then methylene chloride. The organic layer was recovered, dried over magnesium sulfate, and concentrated by evaporation under reduced pressure to obtain the title compound as a white solid, which, after drying, amounted to 2.4 g (98 percent of theory) and melted at 185°-187° C.

reactant | Sodium iodide | 24 mmol, 3.6 g | [I-].[Na+]
reactant | trimethylsilyl chloride | 24 mmol, 92.6 g | C[Si](C)(C)Cl | C3H9ClSi
reactant | 3-amino-1-methylpyrazole | 24 mmol, 2.3 g | NC1=NN(C=C1)C | C4H7N3
reactant | triethylamine | 25 mmol, 2.5 g | C(C)N(CC)CC | C6H15N
reactant | 7-chloro-5-methoxy-1,2,4-triazolo[1,5-c]-pyrimidine-2-sulfonyl chloride | 7.0 mmol, 2.0 g | ClC1=CC=2N(C(=N1)OC)N=C(N2)S(=O)(=O)Cl | C6H4Cl2N4O3S
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
catalyst | dimethyl sulfoxide | about 0.2 mL | CS(=O)C | C2H6OS
product | N-(1-Methylpyrazol-3-yl)-7-chloro-5-methoxy-1,2,4-triazolo[1,5-c]pyrimidine-2-sulfonamide | CN1N=C(C=C1)NS(=O)(=O)C1=NN2C(=NC(=CC2=N1)Cl)OC | C10H10ClN7O3S
